US07179823B1
Tetrakis(triphenylphosphine)palladium (990 mg) was added to a mixture of ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy)benzyl]-3-trifluoromethanesulfonyloxy-1H-pyrazol-4-yl]propionate (2.50 g), 4-trifluoromethylphenylboronic acid (1.23 g), 2N aqueous sodium carbonate solution (6.5 ml), ethanol (7 ml), and toluene (100 ml). This mixture was refluxed under an argon atmosphere for 13 hours. Ethyl acetate was added to this reaction mixture, which was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and a colorless oily substance was obtained from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio). A mixture of the oily substance obtained, 1N aqueous sodium hydroxide solution (5 ml), ethanol (5 ml), and tetrahydrofuran (5 ml) was stirred at room temperature for 2 hours. The reaction mixture was acidified with dilute hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The colorless crystals obtained were collected by filtration to yield 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy)benzyl]-3-(4-trifluoromethylphenyl)-1H-pyrazol-4-yl]propionic acid (680 mg, yield: 29%). This was recrystallized from ethyl acetate-hexane. Melting point: 92–93° C.

reactant | ethyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy)benzyl]-3-trifluoromethanesulfonyloxy-1H-pyrazol-4-yl]propionate | 2.50 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)OS(=O)(=O)C(F)(F)F)C=C1)C | C25H24F3N3O8S
reactant | 4-trifluoromethylphenylboronic acid | 1.23 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2N, 6.5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | Tetrakis(triphenylphosphine)palladium | 990 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy)benzyl]-3-(4-trifluoromethylphenyl)-1H-pyrazol-4-yl]propionic acid | 680 mg, yield: 29% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C2=CC=C(C=C2)C(F)(F)F)C=C1)C | C29H24F3N3O5
